US05061706
To a solution of 0.3 g (1.1 mmol) 7-cyano-1-hydroxy-6-trifluoromethylquinoxaline-2,3(1H,4H)-dione in 30 ml ethanol was added 30 ml 0.5M phosphate buffer pH 7.4. The mixture was added 0.9 g (6.5 mmol) bromoacetic acid and then stirred at 25° C. for 10 days. 4N hydrochloric acid was added to pH 1, and then the reaction mixture was evaporated in vacuo. The residue was stirred with water to give 0.27 g (74%) of 1-carboxymethyloxy-7-cyano-6-trifluoromethylquinoxaline-2,3(1H,4H)-dione. M.p. 257° C. 1H-NMR (DMSO-d6): 8.2 (1H, s), 7.6 (1H, s), 4.8 (2H, s).

reactant | 7-cyano-1-hydroxy-6-trifluoromethylquinoxaline-2,3(1H,4H)-dione | 1.1 mmol, 0.3 g | C(#N)C1=C(C=C2NC(C(N(C2=C1)O)=O)=O)C(F)(F)F | C10H4F3N3O3
reactant | phosphate | 0.5M, 30 ml, pH 7.4 | P(=O)([O-])([O-])[O-]
reactant | bromoacetic acid | 6.5 mmol, 0.9 g | BrCC(=O)O | C2H3BrO2
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-carboxymethyloxy-7-cyano-6-trifluoromethylquinoxaline-2,3(1H,4H)-dione | 0.27 g, 74% | C(=O)(O)CON1C(C(NC2=CC(=C(C=C12)C#N)C(F)(F)F)=O)=O | C12H6F3N3O5
